US04933345
6-Bromo-3-(3-isoxazolyl)-β-carboline
1.05 g (5 mmol) of β-carboline-3-carbaldehyde oxime is suspended in 50 ml of dry THF and combined at 0° C. with 1.8 g of N-bromosuccinimide in 20 ml of dry THF. The reaction mixture is heated to room temperature, stirred for 95 hours, and combined with 1.5 eq. of trimethylsilylacetylene and 2 ml of triethylamine. The mixture is further stirred overnight, poured on ice water, and extracted with ether. The organic phase is dried over magnesium sulfate, filtered, and the solvent drawn off. The remaining oil is dissolved in 10 ml of DMF and combined with 10 ml of sodium hydroxide solution (1-molar). The reaction mixture is stirred overnight at room temperature, poured on water, and extracted with ethyl acetate. The resultant product is purified by column chromatography with ethyl acetate as the eluent. Melting point: 292°-293° C.

reactant | β-carboline-3-carbaldehyde oxime | 5 mmol, 1.05 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=NO | C12H9N3O
reactant | N-bromosuccinimide | 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | trimethylsilylacetylene | 1.5 eq. | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-Bromo-3-(3-isoxazolyl)-β-carboline | BrC=1C=C2C=3C=C(N=CC3NC2=CC1)C1=NOC=C1 | C14H8BrN3O
